US04012513
A mixture of ethyl 1-(7-chloroquinol-4-yl)-5-methoxy-2-methylindolin-3-ylacetate (7.0g.) and 2,3,5,6-tetrachloro-1,4-benzoquinone (5.6g.) in dry xylene (50ml.) was heated under reflux for 1.5 hours. The mixture was then cooled and filtered. The filtrate was washed successively with cold 2N-sodium hydroxide solution (2 × 30ml.) and water (2 × 50ml.). The organic layer was dried (MgSO4) and evaporated in vacuo to dryness, and the residue (dissolved in the minimum volume of diethyl ether) was adsorbed on a column of chromatographic silica gel (column dimensions: 15 × 3.5cm.). The column was eluted with a 1:3 v/v mixture of diethyl ether and petroleum ether (b.p. 40°-60° C.), and the eluate was evaporated in vacuo to give ethyl 1-(7-chloroquinol-4-yl)-5-methoxy-2-methylindol-3-ylacetate as a yellow oil, NMR: -OCH3, τ6.12.

reactant | ethyl 1-(7-chloroquinol-4-yl)-5-methoxy-2-methylindolin-3-ylacetate | 7.0g | ClC1=CC=C2C(=CC=NC2=C1)N1C(C(C2=CC(=CC=C12)OC)CC(=O)OCC)C | C23H23ClN2O3
reactant | 2,3,5,6-tetrachloro-1,4-benzoquinone | 5.6g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
solvent | xylene | 50ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 1-(7-chloroquinol-4-yl)-5-methoxy-2-methylindol-3-ylacetate | ClC1=CC=C2C(=CC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)OCC)C | C23H21ClN2O3
